US09382228B2
A solution of 6′-(bis(tert-butoxycarbonyl)amino)-4-((6-nitropyridin-3-yl)oxy)-[2,3′-bipyridine](0.600 g, 1.178 mmol) in EtOAc (15 mL) and MeOH (5 mL) was treated with 10% Pd/C (50% wet, 0.125 g, 1.178 mmol) and hydrogenated (1 atm) for 16 h. The solids were removed via filtration through diatomaceous earth, washed with EtOAc and the filtrate concentrated to dryness to afford 6′-(bis(tert-butoxycarbonyl)amino)-4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridine](0.55 g, 97%) as a white amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 9.06 (d, J=2.5 Hz, 1H), 8.53 (d, J=5.7 Hz, 1H), 8.46 (dd, J=8.5, 2.5 Hz, 1H), 7.84 (d, J=3.0 Hz, 1H), 7.63 (d, J=2.4 Hz, 1H), 7.48 (d, J=8.0 Hz, 1H), 7.32 (dd, J=8.9, 3.0 Hz, 1H), 6.79 (dd, J=5.7, 2.4 Hz, 1H), 6.53 (d, J=8.9 Hz, 1H), 6.03 (s, 2H), 1.40 (s, 18H); MS (ESI) m/z: 480.2 (M+H+).

reactant | 6′-(bis(tert-butoxycarbonyl)amino)-4-((6-nitropyridin-3-yl)oxy)-[2,3′-bipyridine] | 1.178 mmol, 0.600 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-])C(=O)OC(C)(C)C | C25H27N5O7
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 1.178 mmol, 0.125 g | [Pd] | Pd
product | 6′-(bis(tert-butoxycarbonyl)amino)-4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridine] | 0.55 g, 97% | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=NC(=CC1)N)C(=O)OC(C)(C)C | C25H29N5O5
